US04048191
To a refluxing solution of sodium isopropoxide in isopropanol (prepared by refluxing 0.69 g. (0.030 mole) of sodium in 70 ml. of isopropanol) is added 7.0 g. (0.025 mole) of 4-chloro-5-(p-chlorobenzoyl)-pyrrole- 2-acetonitrile prepared according to Example VIII, after which a solution of 3.78 g. (0.030 mole) of dimethyl sulfate in 10 ml. of isopropanol is added dropwise. When addition of the dimethyl sulfate solution is complete, the whole is refluxed for a half-hour and then poured into 1 liter of ice water. Filtration of the resulting mixture yields a grey solid, which is washed well with water and is then chromatographed with benzene on alumina. The chromatographed material is finally recrystallized from isopropanol to yield 4-chloro-5-(p-chlorobenzoyl)-1-methyl- pyrrole-2-acetonitrile as a beige solid; m.p. 139°-142° C.

reactant | sodium isopropoxide | CC([O-])C.[Na+]
reactant | sodium | 0.030 mole | [Na] | Na
reactant | 4-chloro-5-(p-chlorobenzoyl)-pyrrole- 2-acetonitrile | 0.025 mole | ClC=1C=C(NC1C(C1=CC=C(C=C1)Cl)=O)CC#N | C13H8Cl2N2O
reactant | dimethyl sulfate | 0.030 mole | S(=O)(=O)(OC)OC | C2H6O4S
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | isopropanol | 0.030 mole, 70 ml, 0.69 g | C(C)(C)O | C3H8O
product | 4-chloro-5-(p-chlorobenzoyl)-1-methyl- pyrrole-2-acetonitrile | ClC=1C=C(N(C1C(C1=CC=C(C=C1)Cl)=O)C)CC#N | C14H10Cl2N2O
